.title KiCad schematic -> ngspice (Eeschema SPICE export style)
* Net names use KiCad's hierarchical '/NET' convention; ground is net 0.
* Bug planted: /SENSE touches only capacitors -> no DC path. trustguard should
* flag it even though it came from KiCad, not a hand-written netlist.
V1 /VIN 0 DC 5
R1 /VIN /OUT 10k
C1 /OUT /SENSE 1u
C2 /SENSE 0 1u
RL /OUT 0 100k
.op
.end
